US08648099B2
Preparation of 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-N′-(2,2,2-trifluoroethyl)-3-pyridinecarboxylic acid hydrazide
5-(4-Chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (1000 mg, 3.02 mmol; CAN 1018782-82-5) and (2,2,2-trifluoroethyl)hydrazine (380 mg, 3.33 mmol; CAN 5042-30-8) were combined with DMF (10 mL) to give a colorless solution. TBTU (1.06 g, 3.32 mmol) and DIPEA (1.56 g, 2.05 mL, 12.1 mmol) were added. The reaction mixture was stirred for 15 h at room temperature. The reaction mixture was poured into water (50 mL) and extracted with ethyl acetate (2×50 mL). The organic layers were combined and washed with water (1×50 mL) and brine (1×50 mL). The organic layers were dried with MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, 50 g, 0% to 50% EtOAc in hexane) to give the title compound (0.35 g, 27%) as white solid; LC-MS (UV peak area/ESI) 100%, 426.0451 (M−H)−.

reactant | 5-(4-Chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | 3.02 mmol, 1000 mg | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | (2,2,2-trifluoroethyl)hydrazine | 3.33 mmol, 380 mg | FC(CNN)(F)F | C2H5F3N2
reactant | TBTU | 3.32 mmol, 1.06 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 12.1 mmol, 2.05 mL, 1.56 g | CCN(C(C)C)C(C)C | C8H19N
solvent | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-N′-(2,2,2-trifluoroethyl)-3-pyridinecarboxylic acid hydrazide | 0.35 g, 27% | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NNCC(F)(F)F | C16H12ClF6N3O2
